US06734301B2
A solution of 2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole (280 mg, 1.5 mmol) in acetonitrile (15 mL) is treated with powdered potassium carbonate (622 mg, 4.5 mmol) and bromoethane (0.12 mL, 1.65 mmol, filtered through a pad of celite). The resulting milky suspenesion is heated to 40° C. After 22 hrs, the volatiles are removed under reduced pressure, diluted with water (20 mL), and extracted twice with ethyl acetate (20 mL). The combined organics are washed with brine (20 mL), dried over MgSO4, filtered, and concentrated to give a crude oil. This material is purified by LC (230-400 silica gel) eluting with 5% methanol/dichloromethane to afford 226 mg of 3-ethyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole as a white solid, mp 44-46° C. IR (drift) 2931, 2808, 1466, 1413, 1373, 1348, 1323, 1315, 1243, 1132, 1104, 776, 749, 732, 688 cm−1.

reactant | 2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole | 1.5 mmol, 280 mg | C1CNCCN2C1=CC=1C=CC=CC21 | C12H14N2
reactant | potassium carbonate | 4.5 mmol, 622 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethane | BrCC | C2H5Br
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-ethyl-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole | 226 mg | C(C)N1CCN2C(=CC=3C=CC=CC23)CC1 | C14H18N2
